* Variant 04: Complementary folded cascode with CFP/Sziklai output
* Radio.ru-inspired BJT topology study.
* This is a SPICE-like behavioral placeholder; the executable simulation is
* generate_radio_ru_5_study.py because no ngspice/LTspice binary was found.
*
* Source basis: Grechishkin-style BJT front end plus Syrico bias discipline and Rogov output-stage tradeoffs
* Front end:    Matched BJT differential pair, tail current source, mirror load
* VAS:          Complementary folded-cascode BJT VAS with emitter degeneration
* Output:       Complementary feedback pair/Sziklai output with emitter ballast
* Feedback:     No overall feedback; CFP is local output-stage feedback
*
* Rails +/-15 V, load 8 ohm, nominal gain Av=10.
* Behavioral parameters:
*   headroom_v=12.2
*   h2=0.00033
*   h3=0.0003
*   crossover_v=0.02
*   rout_ohm=0.055
*   bandwidth_khz=135.0
*   feedback=none
*
VCC VCC 0 DC 15
VEE VEE 0 DC -15
VIN IN 0 SIN(0 0.1 1000)
* Expand Q1..Qn according to schematics/04_complementary_folded_cfp.svg before transistor-level SPICE.
ROUT OUT LOAD 0.055
RLOAD LOAD 0 8
RZ LOAD ZOB 10
CZ ZOB 0 100n
*.tran 0 40m 10m 2u
*.four 1000 V(LOAD)
.end
